US04465683
2-[4-[4-(3-Chlorophenyl)piperazin-1-yl]butyl]-1,2,4-triazolo[4,3-a]pyridin-3-(2H)-one
A mixture of 8.0 g. (0.0343 mole) of 1-(3-chlorophenyl)piperazine hydrocloride, 5.88 g. (0.0343 mole) of 1-bromo-4-chlorobutane, 9.48 g. (0.9686 mole) of finely powdered potassium carbonate, and 200 ml. of dry xylene was refluxed for 22 hr. To this mixture there was then added 5.39 g. (0.0343 mole) of sodium 1,2,4-triazolo[4,3-a]pyridin-3(2H)-one, and the resulting suspension was refluxed an additional 72 hr. The mixture was then cooled, diluted with 200 ml. of chloroform, stirred for 15 min. and filtered. The clear filtrate was concentrated to an oil (9.8 g.) under reduced pressure. The residue was recrystallized from ET2O--EtOH--CHCl3 to afford 2.31 g. (43%) of the desired product, m.p. 122°-123°.

reactant | 1-(3-chlorophenyl)piperazine hydrocloride | 0.0343 mole | Cl.ClC=1C=C(C=CC1)N1CCNCC1
reactant | 1-bromo-4-chlorobutane | 0.0343 mole | BrCCCCCl | C4H8BrCl
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | sodium 1,2,4-triazolo[4,3-a]pyridin-3(2H)-one | 0.0343 mole | N=1NC(N2C1C=CC=C2)=O.[Na]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 2-[4-[4-(3-Chlorophenyl)piperazin-1-yl]butyl]-1,2,4-triazolo[4,3-a]pyridin-3-(2H)-one | 43% | ClC=1C=C(C=CC1)N1CCN(CC1)CCCCN1N=C2N(C=CC=C2)C1=O | C20H24ClN5O
